Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ line placement on ___. D/C on ___

 
History of Present Illness:
HPI:  ___ y F with sickle cell disease, including multiple 
hospitalizations for pain crises, PE in ___, venous sinus 
thrombosis, facticious disorder, depression presenting with one 
day R>L pleuritic chest pain.  She awoke yeasterday AM with body 
pain worse at her right rib that she tried to control with oral 
dilaudid.  She feels pain is similar to previous PE pain, but 
also like previous ___ and awoke her from sleep.  She took 8 mg 
PO dilaudid without relief.  She also reports an episode of 
right leg shaking and lightheadedness today.  Her leg shaking 
caused her to fall down, but she did not pass out or bite her 
tongue like previous seizures,  She reports fevers to 102.4 F at 
home.
.
She reports med compliance given group home setting with DOT.  
She reports that she has a chronic death wish, but is not 
actively suicidal and has no plan or desire to harm her self 
currently.
.
In the ED, initial vitals were 99.5 106 119/79 18 97.  She had 
fevers to 100.  EKG showed S1Q3T3 and anterior TWI.  She had a 
CTA that showed new small sub-segmental pulmonary emboli.  She 
had a head CT done for right-sided weakness per med student exam 
that was not seen on repeat exam by attending.  Head CT was 
normal and patient was ambulating normally.  Exam also showed 
some LUQ tenderness.  She has received 7 mg IV and 2 mg PO 
dilaudid and had some difficulty with access.  Patient requested 
a central line.  She was started on heparin.  Prior to transfer, 
vital signs were T 98.3 HR 90 BP 112/54 RR 19 ___ 100/RA.
.  
Currently, she complains of persistant pain.
.  
ROS:
(+) fever, chills, headache, double vision, sore throat, 
shortness of breath, chest pain, diarrhea, dysuria.  
(-) night sweats, rhinorrhea, congestion, cough, abdominal pain, 
nausea, vomiting,constipation, BRBPR, melena, hematochezia, 
hematuria
 
Past Medical History:
Sickle cell (HbSS) disease with frequent hospitalizations with 
pain crises. 
s/p acute chest syndrome requiring intubation in ___. 
? CVA in ___
Pulmonary embolus in ___ circumstances unclear. 
Asthma
Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations.
Hepatitis B
s/p cholecystectomy
Hx of seizure disorder-details unknown
Hx of numerous port-a-cath placements
Hx of coag-negative staph and MSSA line infections
Hyperprolactinemia

 
Social History:
___
Family History:
FAMILY HISTORY:  
-mother ___ sickle trait
-father ___ has sickle cell anemia

 
Physical Exam:
PHYSICAL EXAM:  
Vitals - T:99.7 BP:118/76 HR:95 RR:18 02 sat: 98/RA 
Gen: NAD. Flat affect, pain ___
Neck: supple
CV: s1 s2, ___ systolic murmur at LUSB s radiation
Lungs: CTAB no w/r/r
GI: soft ND.  TTP at LUQ and RUQ no r/g.
Extremities: Skin mildly excoriated from scratching.
Neuro: AOx3
 
Pertinent Results:
AT ADMISSION
___   4:25p   
___: 17.1  PTT: 26.0  INR: 1.5  
 
___
4:15p   
UA: Color  Straw  Appear  Clear  SpecGr 1.007  pH   8.0, 
negative  
            
 
___
3:30p   
Na 134, Cl  104, K 4.6, HCO2 22, BUN 9, Creat 0.4, Glu  90   
AGap=13 

CK: 56  MB: 2  Trop-T: <0.01  
Comments: cTropnT: Ctropnt > 0.10 Ng/Ml Suggests Acute Mi 
ALT: 61 AP: 217 Tbili: 0.8 Alb: 4.1 
AST: 95 LDH: 586 Dbili:  TProt:  
___:  Lip:      
Phenytoin: 5.9 
Other Blood Chemistry:
Hapto: <20

WBC 6.4,Hgb 9.1, Hct 27, Plat  409 
 N:43 Band:0 ___ M:7 E:0 Bas:0 Nrbc: 1  
Hypochr: 1+ Anisocy: 3+ Poiklo: 2+ Macrocy: 3+ Microcy: 1+ 
Polychr: 1+ Ovalocy: OCCASIONAL Target: 1+ Sickle: 2+ Schisto: 
1+ 
Retic: 9.8
Plt-Est: Normal
 

COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 06:54AM    9.3 1.97* 7.3* 21.5* 109* 36.8* 33.9 
26.1* 339 
___ 06:19AM    8.9 1.93* 7.2* 21.3* 110* 37.4* 34.0 
26.0* 340   
___ 06:03PM          22.4*           Import Result 
___ 05:45AM    8.9 1.98* 7.5* 21.3* 108* 37.8* 35.2* 
26.4* 340 
___ 03:59AM    9.0 2.14* 7.9* 23.3* 109* 37.0* 34.0 
25.9* 360  
___ 06:49PM    7.6 2.27* 8.5* 24.3* 107* 37.4* 34.9 
26.0* 375 
___ 03:30PM    6.4 2.54* 9.1* 27.0* 106* 35.7* 33.6 
25.8* 409 

 
BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Smr Plt Ct 
___ 
___ 06:54AM          339  
___ 06:54AM    22.9* 98.2*     2.2* 
___ 06:19AM          340    
___ 06:19AM    20.2* 63.8*     1.9* 
___ 05:45AM          340    
___ 05:45AM    16.9* 73.2*     1.5*  
___ 11:03AM    16.0* 82.1*     1.4*  
___ 03:59AM          360    
___ 03:59AM    15.9* 64.8*     1.4* 
___ 06:49PM          375    
___ 06:49PM    16.9* 36.2*     1.5*  
___ 04:25PM    17.1* 26.0     1.5* Impor 

Imaging: 
ABD US ___: No evidence of retained stone, however, the 
distal common bile 
duct is not entirely visualized. MRCP is recommended if there is 
high 
clinical suspicion for retained stone. 
   
CXRAY on ___ is a right-sided PICC line, which 
on the lateral radiograph appears to terminate over the expected 
location of 
the SVC. The cardiomediastinal silhouette is normal. The lungs 
are clear. 
  
Chest CT on ___  :IMPRESSION: 
1. New segmental PE in right lower lobe segmental branches. 
2. Stable areas of atelectasis/scarring in the right upper and 
left lower 
lobes. 
3. Unchanged prominance of MPA. 
4. Unchanged mild cardiomegaly. No right heart strain. 
4. Shrunken spleen compatible with autoinfarction.. 

HEAD CT ON ___ is no intracranial hemorrhage, loss of 
gray-white matter junction, mass effect, or edema. The 
ventricles, sulci, and cisterns are of normal size and 
configuration for age. There is no depressed skull fracture. 
Mastoid air cells are clear. Visualized paranasal sinuses are 
clear. Orbits are normal. 
  IMPRESSION: No acute intracranial hemorrhage. MR is more 
sensitive in 
detection of acute stroke. 

 
Brief Hospital Course:
  ___ y F with sickle cell disease, h/o PE and venous sinus 
thrombosis, facticious disorder, depression presenting with new 
pulmonary embolism and pain crisis.
.  
# PULMONARY EMBOLISM: In setting of subtheraputic INR of 1.5, so 
it does not represent coumadin failure.  Her INR was 
subtheraputic on 5 mg of coumadin.  Compliance issues is less 
likely given that she is living in a group home which monitors 
her pill intake.  Her diagnosis of PE was confirmed by CTA which 
showed new PE on Right Lower lobe. We also checked CE which were 
negative x 2. EKG had minor changes that correlated to pulmonary 
embolism. Repeated EKG was unchanged 
-Increased coumadin dose from 5mg to 7.5 mg on ___. She was 
placed on heparin drip while been bridged to coumadin. Patient 
has very poor venous access. Phlebotomist were unable to obtain 
blood from attempted blood draws.  
PICC line in place on ___ and removed on the day of 
discharge.  INR on discharge was 2.2. She will continue on 
lovenox 40mg SC BID for a total of 2 days. Her first dose was 
given today at 2:ooPM.

.
# SICKLE CELL CRISIS: Patient has been complaining of pain 
through out body worse on right lower chest area and right upper 
quadrant. She was treated with O2, IV Dilaudid 1mg IV for the 
first day, then she was transition to PO Dilaudid ___ PO Q 3 
hours PRN for pain. She is currently on MS contin 60mg PO BID as 
her outpatient meds. She was given IV fluids. Her Hct trended 
down 27 at admission and trended down to low ___, 22.4 at time 
of discharge. Her Hct has been stable for the last 3 days. Iron 
studies, iron WNL. Continue  hydroxyurea, folate
-Patient c/o of blurred vision and headache the day prior to 
D/c. CN II-XII intact, however when checking her visual fields, 
the patient stated that she could not see my fingers. Then, when 
asked what time she took her pain medications and she looked at 
the clock in the wall and told me that was 15 min prior. She 
stated that she was feeling better after using cold compress on 
her forehead. She had Head CT done at admission which showed no 
acute process.
.
# FEVERS: Negative UA and no PNA on CT.  Patient has history of 
fevers with SCC.

.
# DEPRESSION:  Borderline personality disorder/PTSD with history 
of suicidal ideation. Numerous hospitalizations at various 
psychiatric  
facilities.  Patient reported feeling unsafe to nurse and 
feeling that she needs a sitter. Patient continues to state that 
she has active suicidal ideations with no current plan. She had 
1:1 sitter during her whole hospitalization. She was continued 
on her home meds Citalopram and Mirtazapine.
- Psych evaluation was obtained and it was recommended that she 
continue 1:1 sitter during her hospitalization, and that she 
didn't need psych admission. The plan was for her to return to 
the group home.
.
# RUQ PAIN: Typical for pain crises. Patient complained of 
generalized abdominal pain that changed from RUQ to LUQ, and for 
the most part didn't allow a full abdominal exam to be done due 
to pain on palpation. However, for most days I was able to push 
down on her abdomen with stethoscope without complaining of 
pain. She has transaminitis since ___, so she will need LFTs 
followed-up. 
- RUQ ultrasound done on ___: which showed no stones, and 
mildly dilated common bile duct (5mm) which was not fully 
visualized. If concerned for stones may do MRCP
- Patient had + Hep B core antibody, no Hep C serology. She will 
need to follow-up LFTs as outpatient.

.
# SEIZURE DISORDER: Patient has unclear seizure history, states 
that she had leg shaking and fall when she lived in ___. She was 
then started on Phenytoin at that time. At this admission she 
had right leg shaking and fall prior to the admission without 
post-ictal symptoms.  Penytoin level was 5.9, theraputic level 
is 10. Uncertain if patient was taking meds at group home as 
prescribed. She was given extra 100mg of Phenytoin besides her 
200mg BID for the last 5 days. She will have phenytoin level 
rechecked on ___. Results will be sent to PCP. She also has 
Neurology appointment for ___ to further evaluate for the need 
of phenytoin therapy and seizure history.  
.

 
Medications on Admission:
MEDICATIONS:  
1. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Gabapentin 300 mg  PO at bedtime 
4. Hydroxyurea 1000 mg PO DAILY 
5. Mirtazapine 15 mg PO HS at bedtime
6. Hydroxyzine HCl 25 mg PO Q6H as needed for pruritis.  
7. Promethazine 25 mg PO every 6 hours as needed for nausea.  
8. Docusate Sodium 100 mg PO 2 times a day  
9. Magnesium Oxide 400 mg PO DAILY
10. Senna 8.6 mg PO BID as needed for constipation.  
11. Sodium Chloride 0.65 % Aerosol TID as needed for congestion. 
 
12. Phenytoin Sodium Extended 200 mg BID  
13. Warfarin 5 mg TabletDaily at 4 ___.  
14. Hydromorphone 4 mg ___ Tablets PO every 3 hours as needed 
for breakthru pain.  
15. Morphine 60 mg PO Q8H
16. Ondansetron HCl 4 mg PO once a day as needed for nausea.  
17. Benadryl 25 mg PO every ___ hours as needed for itching 
18. Albuterol Sulfate 1.25 mg/3 mL Nebulization Inhalation every 
four hours as needed for shortness of breath or wheezing. 
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
4. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. Hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
7. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for nausea.  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation: As needed for constipation.  
11. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
TID (3 times a day) as needed for congestion.  
12. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q8H (every 8 hours): Please hold for 
increased sedation and respiratory rate < 12.  
13. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
14. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) Neb treatment Inhalation Q4H (every 4 
hours) as needed for wheezing.  
15. Warfarin 7.5 mg Tablet Sig: One (1) Tablet PO once a day: In 
the afternoon. Please hold for 
INR >3.0.
Disp:*30 Tablet(s)* Refills:*0*
16. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day).  
17. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for severe pain: Please hold for sedation and 
respiratory rate <12.  
18. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO 
Q6H (every 6 hours) as needed for itching.  
19. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) injection 
Subcutaneous Q12H (every 12 hours) for 3 doses: Please give a 
total of 3 doses. First dose tonight.
Disp:*3 injection* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Right Lower lobe Pulmonary embolism
Sickle cell crisis
Active suicidal ideations

Secondary: 
Asthma
Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations.
Transfusion-related Hepatitis B
seizure disorder
Hx of coag-negative staph and MSSA line infections
Hyperprolactinemia

 
Discharge Condition:
Stable, generalized pain improved

 
Discharge Instructions:
You were admitted for right sided chest pain. You were found to 
have a new pulmonary embolism on your right lung. Your comadin 
level were low, and therefore not at therapeutic level. You were 
also having a sickle cell crisis where you had generalized body 
ache and abdominal pain. You gave you heparin through your IV 
and increased your dose of heparin until your coumadin level 
(INR) was therapeutic. The goal of your INR is 2.0 -3.0. For 
your sickle cell crisis, we gave you fluids, oxygen and pain 
medication. You seen to have some improvement of your pain over 
the course of your hospitalization.

We have made the following changes to your medications:
-Increased coumadin from 5mg to 7.5mg
-Start lovenox 40 mg injections twice daily for a total of 3 
more doses.

Please call your doctor or come to the emergency room if you 
developed shortness of breath, worsenning chest pain, 
palpitations, fever (temperature greater than 101.3 F), chills, 
worsening of body pain, worsening abdominal pain, or any other 
concerns.
 
Followup Instructions:
___